US09079902B2
A 15-mL round-bottom flask was charged with 3-bromo-N-(2,4-dimethoxybenzyl)-N-(1,2,4-thiadiazol-5-yl)-1H-pyrrolo[2,3-b]pyridine-6-sulfonamide (1.0424 g, 2.042 mmol), cesium fluoride (0.031 g, 0.204 mmol), and DMF (8 mL) to give a thick slurry. Di-tert-butyl dicarbonate (0.490 g, 2.247 mmol) was added, followed by an additional portion of cesium fluoride (0.031 g, 0.204 mmol). The resulting thick slurry was stirred for 3 h, at which time the solids had dissolved. The mixture was partitioned between water and EtOAc, with a small amount of brine to breakup an emulsion. The layers were separated, and the aq. layer was extracted with EtOAc. The organic extracts were combined, washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude product was purified by chromatography on silica gel (0 to 50% EtOAc/Heptane) to give tert-butyl 3-bromo-6-(N-(2,4-dimethoxybenzyl)-N-(1,2,4-thiadiazol-5-yl)sulfamoyl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (1.112 g, 1.821 mmol, 89% yield) as a white foam. 1H NMR (400 MHz, DMSO-d6) δ=8.36 (d, J=7.9 Hz, 2 H), 8.19 (d, J=8.2 Hz, 1 H), 8.04 (d, J=8.2 Hz, 1 H), 6.99 (d, J=8.4 Hz, 1 H), 6.38 (d, J=2.3 Hz, 1 H), 6.33 (dd, J=2.4, 8.5 Hz, 1 H), 5.27 (s, 2 H), 3.69 (s, 3 H), 3.67 (s, 3 H), 1.57 (s, 9 H). m/z (ESI) 610.0 (M+H)+.

reactant | 3-bromo-N-(2,4-dimethoxybenzyl)-N-(1,2,4-thiadiazol-5-yl)-1H-pyrrolo[2,3-b]pyridine-6-sulfonamide | 2.042 mmol, 1.0424 g | BrC1=CNC2=NC(=CC=C21)S(=O)(=O)N(C2=NC=NS2)CC2=C(C=C(C=C2)OC)OC | C18H16BrN5O4S2
reactant | cesium fluoride | 0.204 mmol, 0.031 g | [F-].[Cs+]
reactant | Di-tert-butyl dicarbonate | 2.247 mmol, 0.490 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | cesium fluoride | 0.204 mmol, 0.031 g | [F-].[Cs+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-bromo-6-(N-(2,4-dimethoxybenzyl)-N-(1,2,4-thiadiazol-5-yl)sulfamoyl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 1.821 mmol, 1.112 g, 89% yield | BrC1=CN(C2=NC(=CC=C21)S(N(C2=NC=NS2)CC2=C(C=C(C=C2)OC)OC)(=O)=O)C(=O)OC(C)(C)C | C23H24BrN5O6S2
